US08604069B2
(A-53-15) tert-Butyl 6-benzyloxy-3-(methoxymethylcarbamoyl)hexanoate
4-tert-Butyl 2-(3-benzyloxypropyl)succinate (80 g), triethylamine (48.4 mL) and DMF (400 mL) were mixed. To the mixture were added N,O-dimethylhydroxylamine hydrochloride (31.5 g), HOBt.H2O (45.6 g) and WSC.HCl (57.1 g) at ice temperature. The mixture was stirred at RT overnight. To the reaction mixture was added water (400 mL), and the mixture was extracted with hexane (480 mL, 480 mL, 240 mL). The combined organic layer was washed with aqueous 10 w/v % sodium carbonate (240 mL×3), aqueous 10 w/v % potassium hydrogen sulfate (240 mL), water (240 mL) and brine (240 mL), then dried over magnesium sulfate. The magnesium sulfate was filtered off and the filtrate was concentrated in vacuo to give the title compound (84.1 g) as a crude product.

reactant | 4-tert-Butyl 2-(3-benzyloxypropyl)succinate | 80 g | C(C1=CC=CC=C1)OCCCC(C(=O)[O-])CC(=O)OC(C)(C)C
reactant | N,O-dimethylhydroxylamine hydrochloride | 31.5 g | Cl.CNOC
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC.HCl | 57.1 g | CCN=C=NCCCN(C)C.Cl
solvent | water | 400 mL | O | H2O
solvent | H2O | 45.6 g | O | H2O
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 48.4 mL | C(C)N(CC)CC | C6H15N
product | tert-Butyl 6-benzyloxy-3-(methoxymethylcarbamoyl)hexanoate | 84.1 g | C(C1=CC=CC=C1)OCCCC(CC(=O)OC(C)(C)C)C(NCOC)=O | C20H31NO5
